US07420001B2
To 70 mg (0.3 mmol) of 5-acetyl-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester was added 115 mg (2 eq) EDCI, 109 mg (1 eq) of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester and 2 mL of DMF. The mixture was stirred at 65° C. overnight. The reaction mixture was poured into brine, and extracted with dichloromethane. The organic solution was washed with 2N HCl and water. Removal of the solvents under vacuum gave crude product, which was purified by column chromatography on silica gel to give 20 mg (10% yield) of (S)-2-{4′-[(5-acetyl-4-hydroxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester as a white solid.

reactant | 5-acetyl-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 0.3 mmol, 70 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)C(C)=O)O | C14H14O5
reactant | EDCI | 115 mg, 2 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 109 mg, 1 eq | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C18H22N2O4S
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (S)-2-{4′-[(5-acetyl-4-hydroxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester | 20 mg, 10% yield | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=C(C=C2)C(C)=O)O)=O | C30H30N2O8S
